US04904792
About 0.6 g of sodium were added to 50 ml. of dry ethanol under an N2 atmosphere, thus forming sodium ethylate in ethanol. 0.91 g of N-methyl-N'-(2-mercapto)ethyl-N"-cyanoguanidine (prepared by the procedure of U.S. Pat. No. 4,093,621) dissolved in 10 ml. of anhydrous ethanol was added thereto and the resulting mixture stirred at room temperature for about 1 hour. Next, 1.59 g of 2-dimethylaminomethyl-4-thiazolylmethylchloride hydrochloride was added thereto in portions over a 1 hour period. After the addition had been completed, the reaction mixture was stirred for an hour at room temperature and was then heated to refluxing temperature for an additional hour. The ethanol was removed from the reaction mixture by evaporation and ethyl acetate plus water (10:1) were added to the residue. The pH of the aqueous phase was adjusted to pH=8 with 1N aqueous hydrochloric acid. The ethyl acetate extract was separated and the ethyl acetate removed by evaporation. The residue was subjected to high pressure liquid chromatography (silica-20:80 ethanol/ethyl acetate). Fractions containing the desired product as shown by tlc were combined and the solvent evaporated therefrom. 1.10 g of N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine were obtained. The physical properties were substantially identical with those obtained in Example 4 for the same compound.

reactant | sodium | 0.6 g | [Na] | Na
reactant | sodium ethylate | CC[O-].[Na+]
reactant | N-methyl-N'-(2-mercapto)ethyl-N"-cyanoguanidine | 0.91 g | CNC(=NC#N)NCCS | C5H10N4S
reactant | 2-dimethylaminomethyl-4-thiazolylmethylchloride hydrochloride | 1.59 g | Cl.CN(C)CC=1SC=C(N1)CCl
solvent | ethanol | C(C)O | C2H6O
product | N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine | 1.10 g | CNC(=NC#N)NCCSCC=1N=C(SC1)CN(C)C | C12H20N6S2
